data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_676937_0,[C:1]([C:5](/[C:4](=[C:3](/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:9]([H:21])[H:22])[N:7]([H:11])[H:12])[N:8]([H:13])[H:14])=[O:10])([H:15])([H:16])[H:17]>>[C:1]([C:5](/[C:3](=[C:4](/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:9]([H:21])[H:22])[N:8]([H:13])[H:14])[N:7]([H:11])[H:12])=[O:10])([H:15])([H:16])[H:17],60.817927500041264
MR_206020_0,[C:1](/[C:2]([O:4][H:8])=[N:6]/[O:3][H:7])([O:5][H:9])([H:10])[H:11]>>[C:1]([O:5][H:9])([N:6]=[C:2]([O:3][H:7])[O:4][H:8])([H:10])[H:11],26.016777499981032
MR_100058_1,[C:1]([C:2]([C:7]([O:8][H:10])=[O:9])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:6]([C:5]([H:20])([H:21])[H:22])[H:11]>>[C:1]([C:2]([C:7](=[O:8])[O:9][H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:6]([C:5]([H:20])([H:21])[H:22])[H:10],21.714010000001025
MR_277606_0,[C:1]([N:3]([N:4]([N:5]([H:11])[H:12])[H:9])[H:8])([N:6]([H:13])[H:14])([O:7][C:2]([H:15])([H:16])[H:17])[H:10]>>[C:1]([N:3]([O:7][C:2]([H:15])([H:16])[H:17])[H:8])([N:4]([N:5]([H:11])[H:12])[H:9])([N:6]([H:13])[H:14])[H:10],71.6466950000239
MR_321859_0,[C:1]([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])([N:5]([N:7]([H:10])[H:11])[H:9])[C:6]([C:4]([H:18])([H:19])[H:20])=[O:8]>>[C:1]1([C:2]([H:12])([H:14])[H:15])([C:3]([H:13])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])([N:5]([N:7]([H:10])[H:11])[H:9])[O:8]1,70.55860999998885
MR_532057_0,[C:1]1([O:6][H:9])([H:11])[C:2]([H:13])([H:14])[C:3]1(/[C:4](=[N:8]/[H:12])[H:15])[C:5]([O:7][H:10])([H:16])[H:17]>>[C:1]([C:2]([C:3](/[C:4](=[N:8]/[H:12])[H:15])=[C:5]([H:16])[H:17])([H:13])[H:14])([O:6][H:9])([O:7][H:10])[H:11],50.95488250001026
MR_568387_0,[C:1]([C:2]([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:7]=[O:8]>>[C:1]([C:2]([N:7]=[O:8])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6]([C:5]([H:18])([H:19])[H:20])=[O:9],71.68120749997243
MR_561635_1,[C@@:1](/[C:4]([O:7][H:10])=[N:8]/[C:2]([H:15])([H:16])[H:17])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:9]/[H:14])([N:6]([H:12])[H:13])[H:11]>>[C:1](=[C:4](/[O:7][H:10])[N:8]([C:2]([H:15])([H:16])[H:17])/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:9]/[H:14])(\[N:6]([H:12])[H:13])[H:11],65.9609175000044
MR_162781_1,[C:1]([C:4]([C:2]([H:15])([H:16])[H:18])=[C:6](/[N:8]=[C:3](/[N:5]([H:10])[H:11])[O:7][H:9])[H:12])([H:13])([H:14])[H:17]>>[C:1]([C:4]1([C:2]([H:15])([H:16])[H:18])[C:3]([N:5]([H:10])[H:11])([O:7][H:9])[N:8]=[C:6]1[H:12])([H:13])([H:14])[H:17],51.53029999998424
MR_114685_1,[C:1]1([H:10])([H:11])[C:5](/[C:4](=[N:3]/[H:9])[H:12])([H:13])[C:6]1([C:7]([C:2]([H:16])([H:17])[H:18])([H:8])[H:15])[H:14]>>[C:1](/[C:5](=[C:4](\[N:3]([H:8])[H:9])[H:12])[H:13])(/[C:6](=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])([H:10])[H:11],72.89542000001006
MR_514954_1,[C:1]12([H:11])[N:3]([H:9])[C@:5]1([H:14])[C@@:6]([C:2]([O:7][H:8])([H:12])[H:13])([H:15])[N:4]2[H:10]>>[C:1]1([C:2]([O:7][H:8])([H:12])[H:13])([H:11])[N:3]([H:9])[C:5]([H:14])=[C:6]([H:15])[N:4]1[H:10],36.547482500002815
MR_44038_0,[C@:1]([N:3]([C:2]([H:11])([H:12])[H:13])[H:8])([C:4](=[C:5]([H:14])[H:15])[H:10])([O:6][H:7])[H:9]>>[C:1](=[C:4](/[C:5]([N:3]([C:2]([H:11])([H:12])[H:13])[H:8])([H:14])[H:15])[H:10])(\[O:6][H:7])[H:9],68.65226499998656
MR_342782_0,[C:1](\[C:3]1=[C:2]([N:5]([H:11])[H:12])[N:8]([H:13])[C:6]1([H:15])[H:16])([N:4]([H:9])[H:10])=[N:7]/[H:14]>>[C:1](\[C:3](/[C:2]([N:5]([H:11])[H:12])=[N:8]/[H:13])=[C:6]([H:15])[H:16])([N:4]([H:9])[H:10])=[N:7]/[H:14],24.40284750002519
MR_104075_0,[C:1]([N:3]([N:2]([C:4]([N:5]([H:9])[H:10])=[C:6]([H:14])[H:15])[H:7])[H:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]1[N:2]([H:7])[C@:4]1([N:5]([H:9])[H:10])[C:6]([H:8])([H:14])[H:15])([H:11])([H:12])[H:13],61.7234100000023
MR_187198_1,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])([C:5](=[O:8])[H:10])[O:6][H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](\[C:3]([H:14])([H:15])[H:16])[O:7][C:5](=[O:8])[H:10])[O:6][H:9],42.85071999999715
MR_325389_0,[C:1]([C:2]([O:4][H:7])=[O:5])([C:3](=[O:6])[H:10])([H:8])[H:9]>>[C:1](=[C:2]([O:4][H:7])[O:5][C:3](=[O:6])[H:10])([H:8])[H:9],58.299770000014206
MR_79636_1,[C:1]([N:3]([C:5]([N:6]([H:13])[H:14])=[O:8])[H:10])([N:4]([C:2]([H:15])([H:16])[H:17])[H:11])([O:7][H:9])[H:12]>>[C:1]([N:3]([C:5]([N:4]([C:2]([H:15])([H:16])[H:17])[H:11])([N:6]([H:13])[H:14])[O:8][H:9])[H:10])(=[O:7])[H:12],55.95731249997158
MR_197625_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]/[H:9])([O:4][H:6])([H:10])[H:11]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[N:5]([H:9])[H:11])([O:4][H:6])[H:10],60.371774999990606
MR_427945_2,[C@@:1]1([N:7]=[C:6]([H:14])[H:15])([H:8])[C:3]([N:5]([H:9])[H:10])=[C:4]1[C:2]([H:11])([H:12])[H:13]>>[C:1]1([H:8])[C:3]([N:5]([H:9])[H:10])[C@:4]1([C:2]([H:11])([H:12])[H:13])[N:7]=[C:6]([H:14])[H:15],55.19678250000126
